data/oMe_Silver.jsonl
{"reaction_id": "NR-053_1-C_2-CC_3-CC_4-C(F)(F)F","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(C)cc(CC)c(CC)c1(C(F)(F)F)","OO"],"products_smiles": ["Oc1c(C)cc(CC)c(CC)c1(C(F)(F)F)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(C)cc(CC)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(C)cc(CC)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(C)cc(CC)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(C)cc(CC)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(C)cc(CC)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
{"reaction_id": "NR-331_1-C(C)(C)C_2-c1ccc(OC)cc1_3-C#CC_4-CC_5-c1cnccc1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(c1ccc(OC)cc1)(C#CC)C(=O)OC(C)(C)C","O=C(CC)c1cnccc1","[Zn]"],"products_smiles": ["C(C(O)(CC)c1cnccc1)(c1ccc(OC)cc1)(C#CC)C(=O)OC(C)(C)C"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(C)COC(=O)C(c1ccc(OC)cc1)(C#CC)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(CC)c1cnccc1)(c1ccc(OC)cc1)(C#CC)C(=O)OC(C)(C)C.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(CC)c1cnccc1)(c1ccc(OC)cc1)(C#CC)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
